US05420129
14.6 g of 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-methyl-2-(morpholin-4-yl)-pyrimidin-4-yl]-benzenesulphonamide and 15.9 g of selenium dioxide in 500 ml of dioxan were stirred in an autoclave at 170° C. for 6 hours. The reaction mixture was filtered and the filtrate was concentrated. The residue was partitioned between chloroform and water. The organic phase was dried, the solvent was evaporated and the residue was recrystallized from dichloromethane-ethanol. There were obtained 10.3 g of 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-formyl-2-(morpholin-4-yl)-pyrimidin-4-yl]-benzenesulphonamide, m.p. 235°-236° C., MS: M=561.

reactant | 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-methyl-2-(morpholin-4-yl)-pyrimidin-4-yl]-benzenesulphonamide | 14.6 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC(=C1)OC)Cl)C)N1CCOCC1 | C26H31ClN4O5S
reactant | selenium dioxide | 15.9 g | [Se](=O)=O | O2Se
solvent | dioxan | 500 ml | O1CCOCC1 | C4H8O2
product | 4-tert-butyl-N-[5-(2-chloro-5-methoxy-phenoxy)-6-formyl-2-(morpholin-4-yl)-pyrimidin-4-yl]-benzenesulphonamide | 10.3 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC(=C1)OC)Cl)C=O)N1CCOCC1 | C26H29ClN4O6S
